US05384312
To the 4-fluorobenzylmagnesiumchloride, prepared from parafluorobenzylchloride (1.59 g, 11 mmol) and magnesium (0.25 g, 11 mmol) in ether (20 ml), was added dropwise, at 0° C., chloro-chloromethyl-dimethylsilane (1.43 g, 10 mmol )in ether (5 ml). Then the mixture was refluxed 6 hours, cooled to 0° C., hydrolyzed with 3N HCl (20 ml) and extracted with ether. The ether solution was washed with water, brine, dried and evaporated. Chromatography (silica gel, hexane) afforded chloromethyl-dimethyl-4-fluorobenzyl silane as an oil (2.01 g, 93% yield) 1H NMR, CDCl3, TMS) δ:0.20 (s,6H), 2.27 (s,2H), 2.63 (s,2H), 6.90-7.13 (m,4H).

reactant | 4-fluorobenzylmagnesiumchloride | FC1=CC=C(C[Mg]Cl)C=C1
reactant | parafluorobenzylchloride | 11 mmol, 1.59 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | magnesium | 11 mmol, 0.25 g | [Mg] | Mg
reactant | chloro-chloromethyl-dimethylsilane | Cl[Si](C)(C)CCl | C3H8Cl2Si
reactant | HCl | 3N, 20 ml | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | chloromethyl-dimethyl-4-fluorobenzyl silane | 2.01 g, 93% yield | ClC[Si](CC1=CC=C(C=C1)F)(C)C | C10H14ClFSi
